US05116981
1,1-Dimethoxy-3-nonyne
1-Heptyne (50 ml, 381 mmole) is dissolved in 360 ml dry THF in a flame dried 2000 ml 3-neck round bottom flask under nitrogen. The solution is cooled to 0° C. and treated with n-butyllithium (232 ml, 360 mmole) dropwise over 40 minutes via a dropping funnel. The reaction mixture is stirred 30 minutes at 0° C., treated with hexamethylphosphoric triamide (68 ml, 391 mmole), and stirred an additional 30 minutes at 0° C. 1,1-Dimethoxy-2-bromoethane (43 ml, 364 mmole) is added dropwise to the reaction mixture over 10 minutes at 0° C. The reaction mixture is stirred 3 hours at 0° C. and an additional 72 hours at room temperature. The mixture is subsequently quenched with 5 ml water and the THF removed in vacuo. The amber oily residue is dissolved in 200 ml diethyl ether and poured into 100 ml 50% saturated sodium chloride. The aqueous layer is extracted with 3×75 ml diethyl ether. The organics are combined, washed with 6×50 ml 50% saturated sodium chloride, and dried over anhydrous magnesium sulfate. The diethyl ether is removed in vacuo and the red oily residue distilled under reduced pressure. After a 5 ml forerun, the fraction boiling at 65°-67° C. (0.5 mm) is collected to provide 42 g of the title compound as a colorless oil. Following the above procedure gives the title compound having the physical characteristic described below:

reactant | 1-Heptyne | 381 mmole, 50 ml | C#CCCCCC | C7H12
reactant | n-butyllithium | 360 mmole, 232 ml | C(CCC)[Li]
reactant | hexamethylphosphoric triamide | 391 mmole, 68 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | 1,1-Dimethoxy-2-bromoethane | 364 mmole, 43 ml | COC(CBr)OC | C4H9BrO2
solvent | THF | 360 ml | C1CCOC1 | C4H8O
product | 1,1-Dimethoxy-3-nonyne | 42 g | COC(CC#CCCCCC)OC | C11H20O2
